US08431575B2
3-bromo-4-cyclohexyloxy-benzaldehyde (13 mmol, 3.7 g), 1-nitro-pentane (19.6 mmol, 2.3 g) and n-butyl amine (2.6 mmol, 0.19 g) were dissolved in toluene (5 mL) and refluxed for 48 h. The reaction mixture was cooled, filtered and evaporated the solvent and purified by column chromatography using 2% ethyl acetate in hexane as an eluents to provide 2-bromo-1-cyclohexyloxy-4-((E)-2-nitro-hex-1-enyl)-benzene (3.5 g).

reactant | 3-bromo-4-cyclohexyloxy-benzaldehyde | 13 mmol, 3.7 g | BrC=1C=C(C=O)C=CC1OC1CCCCC1 | C13H15BrO2
reactant | 1-nitro-pentane | 19.6 mmol, 2.3 g | [N+](=O)([O-])CCCCC | C5H11NO2
reactant | n-butyl amine | 2.6 mmol, 0.19 g | C(CCC)N | C4H11N
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 2-bromo-1-cyclohexyloxy-4-((E)-2-nitro-hex-1-enyl)-benzene | 3.5 g | BrC1=C(C=CC(=C1)\C=C(/CCCC)\[N+](=O)[O-])OC1CCCCC1 | C18H24BrNO3
